US04476311
PREPARATION OF 1-BENZYL-4-(4-CHLOROPHENYL)-5-(3-METHOXYPHENYL)-PYRROLIDIN-2-ONE-4-CARBOXYLIC ACID
6.3 g (0.03 mole) of (4-chlorophenyl)-succinic anhydride and 6.75 g (0.03 mole) of Schiff base, prepared from 3-methoxybenzaldehyde and benzylamine, according to the general procedure, are refluxed at 140° C. in 90 ml of xylene for 12 hr. After cooling to 0° C. the solid is collected, washed with xylene and ether: 9.15 g (70%) of title compound mp 76°-8° C.

reactant | (4-chlorophenyl)-succinic anhydride | 0.03 mole, 6.3 g | ClC1=CC=C(C=C1)C1C(=O)OC(C1)=O | C10H7ClO3
reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | xylene | 90 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-BENZYL-4-(4-CHLOROPHENYL)-5-(3-METHOXYPHENYL)-PYRROLIDIN-2-ONE-4-CARBOXYLIC ACID | C(C1=CC=CC=C1)N1C(CC(C1C1=CC(=CC=C1)OC)(C(=O)O)C1=CC=C(C=C1)Cl)=O | C25H22ClNO4
